US09126945B2
1-Methyl-3,4-bis(trifluoromethyl)-1H-pyrazole-5-carboxylic acid
3.0 g (10.9 mmol) of ethyl 3,4-bis(trifluoromethyl)-1H-pyrazole-5-carboxylate and 4.5 g (32.6 mmol) of potassium carbonate are suspended in 70 ml of acetone, and 1.35 ml of iodomethane (21.7 mmol) are added. The reaction mixture is stirred at room temperature overnight. 54 ml (108 mmol) of 2 N aqueous sodium hydroxide solution are added to the suspension. The solution is then stirred at room temperature overnight. The reaction mixture is diluted with water, and most of the acetone is removed on a rotary evaporator under reduced pressure. The residue is adjusted to pH 2-3 using 1 M hydrochloric acid. The aqueous reaction solution is extracted twice with ethyl acetate. The combined organic phases are dried over magnesium sulphate, filtered and concentrated under reduced pressure on a rotary evaporator. This gives 2.7 g of 1-methyl-3,4-bis(trifluoromethyl)-1H-pyrazole-5-carboxylic acid (84%; purity 88%) as a brown solid.

reactant | ethyl 3,4-bis(trifluoromethyl)-1H-pyrazole-5-carboxylate | 10.9 mmol, 3.0 g | FC(C1=NNC(=C1C(F)(F)F)C(=O)OCC)(F)F | C8H6F6N2O2
reactant | potassium carbonate | 32.6 mmol, 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 21.7 mmol, 1.35 ml | IC | CH3I
reactant | sodium hydroxide | 108 mmol, 2 N, 54 ml | [OH-].[Na+]
solvent | acetone | 70 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 1-Methyl-3,4-bis(trifluoromethyl)-1H-pyrazole-5-carboxylic acid | CN1N=C(C(=C1C(=O)O)C(F)(F)F)C(F)(F)F | C7H4F6N2O2
